US08071595B2
To a solution of 1-(4-(benzyloxy)phenyl)-4-methylpent-2-yne-1,4-diol (3.0 g, 0.01 mol) in DCM (30 mL) were added Celite® (1.0 g) followed by PCC (2.61 g, 0.01 mol) at RT. The reaction mixture was stirred for 1 h, filtered through a pad of Celite® and the filtrate was concentrated in vacuo to obtain the crude product. The crude material was purified via silica gel column chromatography to afford 1-(4-(benzyloxy)phenyl)-4-hydroxy-4-methylpent-2-yn-1-one (1.5 g, 51%) as a solid.

reactant | 1-(4-(benzyloxy)phenyl)-4-methylpent-2-yne-1,4-diol | 0.01 mol, 3.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C#CC(C)(O)C)O | C19H20O3
reactant | PCC | 0.01 mol, 2.61 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-(benzyloxy)phenyl)-4-hydroxy-4-methylpent-2-yn-1-one | 1.5 g, 51% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C#CC(C)(C)O)=O | C19H18O3
